US08048878B2
Synthesis of [(3S,5R)-5-(4-chlorophenyl)morpholin-3-yl]methanol
A solution of 4 N hydrochloric acid in ethyl acetate (18 mL) was added to tert-butyl {(R)-1-(tert-butyldiphenylsilanyloxymethyl)-2-[2-(4-chlorophenyl)-2-oxoethoxy]ethyl}carbamate (960 mg) under ice-cooling. The reaction solution was stirred under ice-cooling for 30 minutes and subsequently at room temperature for 30 minutes, and then concentrated under reduced pressure. Platinum oxide (37.4 mg) was added to a solution of the resulting residue in methanol (18 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for one hour. The reaction solution was filtered through celite. A saturated sodium bicarbonate solution and ethyl acetate were added to the filtrate, and the organic layer was separated. The organic layer was sequentially washed with a saturated sodium bicarbonate solution and brine. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent solvent: heptane-ethyl acetate system) to obtain a crude product. A 1 M solution of tetrabutylammonium fluoride in THF (0.947 mL) was added to a solution of the resulting crude product in THF (5 mL), and the reaction solution was stirred at room temperature for one hour. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent solvent: heptane-ethyl acetate system) to obtain 86 mg of the title compound. The property values of the compound are as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl {(R)-1-(tert-butyldiphenylsilanyloxymethyl)-2-[2-(4-chlorophenyl)-2-oxoethoxy]ethyl}carbamate | 960 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H](COCC(=O)C1=CC=C(C=C1)Cl)NC(OC(C)(C)C)=O | C32H40ClNO5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 18 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.947 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [(3S,5R)-5-(4-chlorophenyl)morpholin-3-yl]methanol | 86 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)CO | C11H14ClNO2
